US06498165B1
To a stirred solution of 5-amino-6-methybenzimidazole (28 mg, 0.19 mmol, 1 eq) in DMF was added NaH (60% dispersion in oil, 7.6 mg, 0.19 mmol, 1 eq). After gas evolution ceased, 2-[(S)-1-phenylethylamino]-4-chloro-pyrimidine (45 mg, 0.19 mmol, 1 eq) was added and the mixture was warmed to 90° C. and stirred 7 h. The heating bath was turned off and the mixture was allowed to stir overnight at room temperature. The DMF was removed under reduced pressure. The residue was diluted with water and extracted wth CH2Cl2. The organic extracts were combined, dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The products were purified by preparative thin layer chromatography to afford 10.5 mg of 2-[(S)-1-phenylethylamino]-4-[5-methyl-6-amino-benzimidazol-1-yl]pyrimidine 1H NMR (500 MHz, CDCl3): δ 1.64 (3H, d, J=7 Hz), 2.27 (3H, s), 3.59 (2H, br s), 5.23 (1H, br m), 5.75 (1H, br s), 6.71 (1H, d, J=5.5 Hz), 7.04 (1H, br), 7.31 (1H, t, J=7.5 Hz), 7.40 (2H, t, J=7.5 Hz), 7.47 (2H, d, J=7.5 Hz), 8.25 (1H, br s), 8.35 (1H, d, J=5.5 Hz). Mass spectrum (ESI) 345.2 (M+1). and 10.3 mg of 2-[(S)-1-phenylethylamino]-4-[5-amino-6-methyl-benzimidazol-1-yl]pyrimidine 1H NMR (500 MHz, CDCl3): δ 1.65 (3H, d, J=7 Hz), 2.31 (3H, s), 3.68 (2H, br s), 5.26 (1H, m), 5.74 (1H, br s), 6.75 (1H, d, J=5.5 Hz), 7.11 (1H, s), 7.28 (1H, m), 7.37 (2H, t, J=7 Hz), 7.75 (2H, d, J=7 Hz), 7.75 (1H, br s), 8.34 (1H, d, J=5.5 Hz), 8.38 (1H, br s). Mass spectrum (ESI) 345.2 (M+1).

reactant | 5-amino-6-methybenzimidazole | 0.19 mmol, 28 mg, 1 eq | NC1=CC2=C(N=CN2)C=C1C | C8H9N3
reactant | NaH | 0.19 mmol, 7.6 mg, 1 eq | [H-].[Na+]
reactant | 2-[(S)-1-phenylethylamino]-4-chloro-pyrimidine | 0.19 mmol, 45 mg, 1 eq | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)Cl | C12H12ClN3
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-[(S)-1-phenylethylamino]-4-[5-methyl-6-amino-benzimidazol-1-yl]pyrimidine | 10.5 mg | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=C(C(=C2)C)N | C20H20N6
